US06897225B1
To a solution of N-(tert-butoxycarbonyl)proline methyl ester (1.30 g) in THF (20 mL) at −78° C. was added a solution of KHMDS (1.25 g) in THF (20 mL). After 45 minutes, a solution of 4-bromobenzyl bromide (1.59 g) in THF (20 mL) was added at −78° C. The reaction mixture was warmed to room temperature over 3 hours and stirred for an additional 3 hours. The mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), filtered and concentrated. Purification by flash column chromatography (silica gel; EtOAc/hexane 1:2) afforded N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline methyl ester (0.474 g). MS (m/z) 398 (MH+).

reactant | N-(tert-butoxycarbonyl)proline methyl ester | 1.30 g | COC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C11H19NO4
reactant | KHMDS | 1.25 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-bromobenzyl bromide | 1.59 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(tert-butoxycarbonyl)-2-(4-bromobenzyl)proline methyl ester | 0.474 g | COC([C@]1(N(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)Br)=O | C18H24BrNO4
